Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Thyroid nodule
 
Major Surgical or Invasive Procedure:
Total thyroidectomy on ___

 
History of Present Illness:
___ with past medical history significant for nontoxic 
multinodular goiter, GERD, HLD, and depression.  She was in a 
MVC which prompted imaging of her hear in ___ and an 
incidental thyroid isthmus nodule was found at that time.  
Thryoid US at this time showed right
thyroid lobe 4 x 1.8 x 1.8 cm with 2 nodules measuring 5.7 mm 
and
5.2 mm, left lobe measuring 3.3 x 1.3 x 1.2 cm with no nodules.
Isthmus was 8.6 mm with a 1.6 cm nodule.

She subsequently had two thyroid biopsies done. Initial result 
was atypia of undetermined significance and second biopsy was 
non-diagnostic. Samples were subsequently sent for ThyroSeq 
testing which was positive for intermediate to high risk (70% 
chance of malignancy). Patient was seen by Dr. ___
taken for total thyroidectomy on ___. 
 
Past Medical History:
Non-toxic multinodular goiter
GERD
Depression
Hyperlipidemia
 
Social History:
___
Family History:
- Father (deceased) - lung cancer, tobacco abuse, congestive
heart failure, HTN
- Sister (deceased) - sarcoma
- Brother (deceased) congestive heart failure, T2DM

 
Physical Exam:
Gen: No acute distress
HEENT: Incision clean dry and intact with dressing in place. 
Neck
soft, flat. Cranial nerves 5, 7, 9, 11 intact bilaterally.
Negative Chvostek.
CV: Hemodynamically stable
Resp: Unlabored breathing on room air
Neuro: Alert and oriented

 
Pertinent Results:
___ 06:30AM BLOOD K-4.2
___ 06:30AM BLOOD Albumin-3.5 Calcium-8.4 Phos-4.8* Mg-2.1
___ 06:15PM BLOOD ___
 
Brief Hospital Course:
The patient was admitted to the Otolaryngology-Head and Neck 
Surgery Service on ___. Please see the separately dictated 

operative note for details of procedure. The patient was 
extubated and transferred to the hospital floor for further 
post-operative care and monitoring of labs. The post-operative 
course was notable for hyperkalemia which resolved prior to 
discharge.  The patient had itching with oxycodone but was 
switched to tramadol and tolerated this well.  The patient was 
discharged to home. 

Hospital Course by Systems:

Neuro: Pain was well controlled, initially with IV regimen which 

was transitioned to oral regimen once tolerating oral intake. 
Post-operative anti-emetics were given PRN. 
Cardiovascular: Remained hemodynamically stable.  
Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.
HEENT: Incision clean and dry on day of discharge.
GI: Diet was advanced as tolerated. Bowel regimen was given prn.
GU: Patient was able to void independently.
Heme: Received Lovenox subcutaneously and pneumatic compression 
boots for DVT prophylaxis.
Endocrine: Labs were monitored closely and adjustments to 
medications made as needed.
ID: Received perioperative antibiotics.

 
Medications on Admission:
- Alprazolam 0.5mg ___ tablets QHS PRN insomnia
- Atorvastatin 20mg QHS
- Cymbalta 60mg BID
- Folic acid 1mg daily
- Omeprazole 20mg QHS
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*56 Tablet Refills:*1 
2.  Calcitriol 0.25 mcg PO BID 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*2 
3.  Calcium Carbonate 2500 mg PO TID W/MEALS 
Your endocrinologist will adjust the dosing of this medication 
as needed.  
RX *calcium carbonate 500 mg calcium (1,250 mg) 2 tablet(s) by 
mouth TID with meals Disp #*180 Tablet Refills:*2 
4.  Levothyroxine Sodium 112 mcg PO DAILY 
Your endocrinologist will adjust the dose of this medication as 
needed 
RX *levothyroxine [Levo-T] 112 mcg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*11 
5.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 
6.  Atorvastatin 20 mg PO QPM  
7.  DULoxetine 60 mg PO BID  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Omeprazole 20 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thyroid nodule s/p total thyroidectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACTIVITY
•Go home and rest today.
•You received general anesthesia.  You may feel tired and 
drowsy for a few hours. You should not drink alcoholic 
beverages, drive, operate any machinery, or make legal decision 
for 24 hours.
•You need to avoid strenuous activity for 2 weeks
•Do NOT lift any weight greater than 10 Lbs for 2 weeks.
•You need to follow up with both your surgeon and your 
endocrinologist as scheduled.

FLUIDS & DIET
•Start with liquids and, if tolerated, you can eat normal 
foods.

MEDICATIONS
•Take pain medication as prescribed.
•Resume other medications as prescribed except any aspirin or 
aspirin containing products unless cleared by your surgeon.

CARE OF PROCEDURE SITE
•Some swelling of the neck incision is expected
•You may note some bloody looking drainage from the region 
where the plastic drain was removed (if you had a drain), for up 
to 5 days.
•Apply antibiotic ointment to your incision twice daily for 7 
days after surgery, then STOP antibiotic ointment and use 
vaseline. If there is tape on your incision apply the ointment 
over the tape.
•Keep incision dry for 3 days. You may be able to take a bath 
from your shoulders down as long as the incision stays dry. The 
tape will start to fall off on its own.  Otherwise you may 
shower and get the incision wet after three days from surgery. 
•If there are any crusts/clots on your wound you may gently 
clean them with a Q-tip and Half strength hydrogen peroxide 
(10cc water + 10cc peroxide) as needed. Do not be too vigorous 
or your stitches or staples may break
•The stitches do not need to be removed as they are 
dissolvable.

WHEN TO CALL YOUR DOCTOR
•Excessive redness of your incision site
•Fever greater than 101 degrees Fahrenheit
•Sudden excessive swelling of incision site
•Make sure you have a follow up appointment with your 
Endocrinologist or Primary Care to have your thyroid labs and 
calcium level checked after surgery.

For questions or problems, please call ___ to speak 
to the clinic nurse during clinic hours.

After hours, or on weekends, dial ___ and ask the 
operator to page the Otolaryngology resident on-call.

 
Followup Instructions:
___